Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
positive blood cultures
 
Major Surgical or Invasive Procedure:
ERCP ___
The scout film was normal.  
•The bile duct was deeply cannulated with the sphincterotome.  
•Given the cholangitis, great care was taken to minimize 
contrast injection  
•The CBD was 7mm in diameter.  
•No discrete filling defects consistent with stones were 
identified in the CBD and CHD.  
•The left and right hepatic ducts and all intrahepatic branches 
were normal.  
•The biliary tree was swept with a 9-12mm balloon starting at 
the bifurcation.  
•Bile was removed.  The CBD and CHD were swept repeatedly.  
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.  
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically. 
•Otherwise normal ercp to third part of the duodenum

 
History of Present Illness:
___ s/p CCY ___, prior ERCPs ___, hospitalization ___ 
at ___ with ERCP ___ with stent placement & 
removal, and again ERCP with stent placement ___ ___ who is referred to ___ with positive blood cultures, 
elevated LFTs. He initially developed nausea, followed by 
shaking chills and alternating chills and sweats on ___. He went 
to bed and awoke the next morning feeling "ok". He went to his 
daughter's game, and developed shaking chills again, after which 
wife convinced him to go to the ___. He  presented to ___ ___ 
with rigors, found to have elevated LFTs and given doxycycline 
for tickborne illness and sent home. He returned to the ___ 
___ ___ with recurrent shaking chills, had BCx done and was sent 
home. He was called this morning to notify him that blood 
cultures were positive to come to ___. There, he was given IVF, 
one dose of Zosyn and had CT abd/pelvis and per documentation 
"unremarkable" however no disc sent over. He was transferred to 
___ for further care. 

In the ___, repeat LFTs and US obtained. ERCP made aware of 
patient, plan for ERCP in AM. He was admitted to the medical 
service for further care. 

Upon arrival to the floor, he is feeling well, asking if he will 
be leaving tomorrow because he has a fun business trip to ___ 
planned. He denies any pain, SOB, chest pain. States no fevers, 
sweats, chills, shaking since yesterday. He has had one BM per 
day, but "fluffier", looser than usual over the past 2 days. No 
blood or dark stool. 

10 pt ROS negative except as above. 

 
Past Medical History:
s/p CCY ___
S/p inguinal hernia repat ___
Obesity
HLD
Neck lipoma
Back pain
Gallstone pancreatitis

 
Social History:
___
Family History:
Father with leukemia
MGM with CAD
 
Physical Exam:
Admission Exam 
Vitals: 97.6 108/69  65  20  98%RA
Gen: well appearing middle-aged man in NAD, speaking full 
sentences, alert, conversant, pleasant
HEENT: OP clear, MMM, EOMI, PERRL, sclerae anicteric
CARDIAC: RRR, S1, S2 no m/r/g
PULM: CTAB, no w/r/r
ABD: soft, nontender except RUQ to deep palpation, nondistended, 
BS+
EXT: warm, dry, no cyanosis, clubbing, or edema
NEURO: AxOx3, ___ motor strength throughout, sensation grossly 
intact
GU: no foley, otherwise deferred
PSYCH: full range of affect

Discharge exam
Vitals: 97.5, no fevers 120/73 59 16 95% RA
Gen: NAD, AAOx3, working at desk in room. No ___ in neck or 
axillae
HEENT: EOMI, sclerae anicteric, MMM
Cardiac: RRR no m/r/g
Resp: CTAB
GI: soft, +BS, NTTP, no rebound or guarding
Skin: no apparent rashes
Neuro: No focal deficits
Psych: Full range of affect
GU: no foley
Ext: no edema, wwp

 
Pertinent Results:
Admission: 
___ 12:30PM BLOOD WBC-6.3 RBC-4.33* Hgb-12.9* Hct-38.1* 
MCV-88 MCH-29.8 MCHC-33.9 RDW-13.4 RDWSD-43.6 Plt ___
___ 12:30PM BLOOD Neuts-66.3 Lymphs-17.1* Monos-14.4* 
Eos-1.1 Baso-0.5 Im ___ AbsNeut-4.16# AbsLymp-1.07* 
AbsMono-0.90* AbsEos-0.07 AbsBaso-0.03
___ 12:30PM BLOOD Glucose-98 UreaN-16 Creat-0.8 Na-141 
K-4.1 Cl-107 HCO3-24 AnGap-14
___ 12:30PM BLOOD ALT-58* AST-47* AlkPhos-107 TotBili-1.6*
___ 12:30PM BLOOD Lipase-21
___ 12:30PM BLOOD Albumin-3.8

MICRO: 
___ ___: 
Blood culture ___ bottles Klebsiella pneumonia, sensitive to all 
antibiotics except ampicillin (sensitive to 
ampicillin-sulbactam)

BI:
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING 
___ URINE URINE CULTURE-PENDING 
___ Blood cultures NGTD at discharge
___ Blood cultures NGTD at discharge

IMAGING

CT A/P at ___: No acute intra-abdominal process. 
(Reviewed in OSH records.)

CXR ___: No acute cardiopulmonary process.

RUQ US: 
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the liver is smooth. There is no focal liver mass. 
The main portal vein is patent with hepatopetal flow. There is 
no ascites. 
BILE DUCTS: There is no intrahepatic biliary dilation. The CHD 
measures 6 mm. 
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening. 
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic tail obscured by overlying bowel gas. 
SPLEEN: Normal echogenicity, measuring 14.1 cm. A small 
accessory spleen is incidentally noted. 
KIDNEYS: Limited views of bilateral kidneys demonstrate a 4.6 cm 
left upper pole renal cyst. There is no hydronephrosis or 
suspicious renal lesion. 
RETROPERITONEUM: The visualized portions of aorta and IVC are 
within normal limits. 
  
IMPRESSION: 
1. Status post cholecystectomy without intrahepatic or 
extrahepatic biliary dilatation. 
2. Unchanged mild splenomegaly. 

ERCP ___:
 •The scout film was normal.  
•The bile duct was deeply cannulated with the sphincterotome.  
•Given the cholangitis, great care was taken to minimize 
contrast injection  
•The CBD was 7mm in diameter.  
•No discrete filling defects consistent with stones were 
identified in the CBD and CHD.  
•The left and right hepatic ducts and all intrahepatic branches 
were normal.  
•The biliary tree was swept with a 9-12mm balloon starting at 
the bifurcation.  
•Bile was removed.  The CBD and CHD were swept repeatedly.  
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.  
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically. 
•Otherwise normal ercp to third part of the duodenum
 
Brief Hospital Course:
___ with s/p CCY, multiple ERCPs in the past without other 
significant PMH who is referred from OSH with fever and GNR 
bacteremia and elevated LFTs concerning for cholangitis, though 
no findings on ERCP consistent with this, and LFTs downtrended 
on their own.  

# Klebsiella pneumoniae bacteremia: Unclear source.  Patient had 
no localizing symptoms.  CXR negative.  CT A/P at ___ showed 
no process to explain the bacteremia. UA negative, Stool studies 
sent but stool is formed. No recurrent fevers and no symptoms. 
Given history of recurrent sludge in CBD, this still could be 
source and potentially passed a stone and had transient 
bacteremia.  The LFTs were only abnormal finding on admission in 
cholestatic pattern and these trended down on their own to 
normal.  Blood cultures at ___ from ___, and ___ grew no 
organisms though final cultures are not completed.  Received 
Unasyn for approx. 72 hours.  Given no fevers, no symptoms and 
no growth on repeat cultures, made 
presumptive dx of passed stone/sludge with mild cholangitis now 
resolved, and switched to PO antibiotics with ciprofloxacin to 
complete 7 course.

#Anemia, thrombocytopenia: mild normocytic anemia and 
thrombocytopenia was new finding this admission.  Possibly 
related to transient BM suppression from active infection.  Will 
need recheck as outpatient after full treatment for infection.

TRANSITIONAL ISSUES
-Recheck CBC for mild anemia and thrombocytopenia
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Ciprofloxacin HCl 750 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 750 mg 1 tablet(s) by mouth twice a day 
Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Klebsiella bacteremia
2. Likely cholangitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you at ___.  You were 
admitted for the finding of bacteria in the blood.  You had 
mildly high liver function tests and bilirubin, and therefore 
there was concern that you had an infection in the biliary 
tract.  Therefore you underwent ERCP to evaluate for this.  They 
did not see any evidence of infection nor blockages.  However, 
you did not have any evidence of infection elsewhere, with a 
negative chest Xray and CT scan of your abdomen and pelvis. Your 
liver enzymes and bilirubin came down on their own to completely 
normal.  Therefore, we think that you may have had a transient 
infection in the biliary tree from a stone or sludge that passed 
and resolved on its own.  You were on an IV antibiotic for 3 
days and never had fevers or further symptoms and your cultures 
showed no further bacteria, so we are transitioning you to oral 
antibiotics to complete a full course of 7 days on discharge.

If you have any symptoms at all once you leave the hospital 
please call your doctor or go to the ER and be vigilant about 
any signs of fever.  Please follow up with your PCP as scheduled 
on ___.
 
Followup Instructions:
___